US09145380B2
2-[2-(4-Chlorophenyl)ethylsulfonylamino]-4-fluoro-benzenesulfonamide
2-[[(E)-2-(4-Chlorophenyl)ethenyl]sulfonylamino]-4-fluoro-benzenesulfonamide (120 mg, 0.31 mmol) was dissolved in ethyl acetate (5 ml) and subjected to the H-cube (1 ml/min, full hydrogen. 10% Pd/C). The product obtained was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (60 mg, 49%) as a white solid.

reactant | 2-[[(E)-2-(4-Chlorophenyl)ethenyl]sulfonylamino]-4-fluoro-benzenesulfonamide | 0.31 mmol, 120 mg | ClC1=CC=C(C=C1)/C=C/S(=O)(=O)NC1=C(C=CC(=C1)F)S(=O)(=O)N | C14H12ClFN2O4S2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-[2-(4-Chlorophenyl)ethylsulfonylamino]-4-fluoro-benzenesulfonamide | 60 mg, 49% | ClC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC(=C1)F)S(=O)(=O)N | C14H14ClFN2O4S2
